* Potentiometer model for KiCad/ngspice
* Pins: 1=Low (connected to GND), 2=Wiper (Vout), 3=High (connected to VIN)
* Parameters:
* Rtot = Total resistance of the potentiometer (e.g., 1k, 10k)
* wpos = Wiper position (0 to 1, where 0 is full CCW, 1 is full CW)
.SUBCKT POT 1 2 3 PARAMS: Rtot=500k wpos=0.5
    * R1: Resistance from High (pin 3) to Wiper (pin 2)
    * R2: Resistance from Wiper (pin 2) to Low (pin 1)
    * Note the +1u: Adds 1 micro-ohm to prevent zero resistance, which can cause simulation errors.
    R1 3 2 {(1-wpos)*Rtot + 1u}
    R2 2 1 {wpos*Rtot + 1u}
.ENDS POT
